US09284299B2
g. PREPARATION of 5-(((2H-TETRAZOL-5-YL)METHYL)AMINO)-1H-INDAZOL-1-OL (Compound 17)
To a solution of N-((2H-tetrazol-5-yl)methyl)-1-(benzyloxy)-1H-indazol-5-amine (43 mg, 0.14 mmol) in dry MeOH (10 mL) was added 10% Pd on charcoal (5 mg). The reaction was stirred under hydrogen atmosphere overnight, and then the solution was filtered over filter paper. Solvent was removed using a rotatory evaporator to provide the desired product, 76, (32 mg, 0.14 mmol) as a pale green solid in quantitative yield. 1H NMR (500 MHz, DMSO) δ 7.95 (s, 1H), 7.72 (s, 1H), 7.60 (d, J=8.5 Hz, 1H), 7.02 (dd, J=1.5, 8.5 Hz, H), 5.35 (s, 2H). 13C NMR (125 MHz, DMSO) δ 155.90, 140.24, 134.21, 129.74, 127.39, 123.31, 120.85, 110.81, 60.94. MS (ESI, CH3OH): [C9H9N7O] m/z 232.1 ([M+H]+).

reactant | N-((2H-tetrazol-5-yl)methyl)-1-(benzyloxy)-1H-indazol-5-amine | 0.14 mmol, 43 mg | N=1NN=NC1CNC=1C=C2C=NN(C2=CC1)OCC1=CC=CC=C1 | C16H15N7O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd on charcoal | 5 mg | [Pd] | Pd
product | 5-(((2H-TETRAZOL-5-YL)METHYL)AMINO)-1H-INDAZOL-1-OL | quantitative yield | N=1NN=NC1CNC=1C=C2C=NN(C2=CC1)O | C9H9N7O
